* C:\IIITH\IIIT Assignments\S25\Ew2\AM-Modulator-Demodulator\mod_demod_combined.asc
M1 N004 N003 N001 N005 CMOSN l={2*LAMBDA} w={width_N} ad={5*width_ N*LAMBDA} as={5*width_ N*LAMBDA} pd={10*LAMBDA+2*width_N} ps={10*LAMBDA+2*width_N}
R1 N002 N003 770k
R2 N003 0 230k
C_c1 N003 N006 10µ
v_osc1 N006 0 SINE(0 1 245k)
V_bias1 N002 0 10
V_in1 N004 0 SINE(0 600m 1k)
R_L1 N001 0 1k
M2 N001 N003 N008 N007 CMOSN l={2*LAMBDA} w={width_N} ad={5*width_ N*LAMBDA} as={5*width_ N*LAMBDA} pd={10*LAMBDA+2*width_N} ps={10*LAMBDA+2*width_N}
R3 N008 0 1k
R4 N009 N008 150k
C1 N009 0 1n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Sajiv\AppData\Local\LTspice\lib\cmp\standard.mos
.include "C:\Users\Sajiv\Downloads\TSMC_180nm.txt"
.param width_N=1u
.param LAMBDA=0.09u
.tran 100u
.backanno
.end
